US06514968B1
Preparation 30 9-Benzyl-6-fluoro-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.4620 g, 0.0014 mol) is added to a mixture of 9-benzyl-6-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.3271 g, 0.0011 mol) in THF (3.4 mL) and DMF (2.4 mL) and the mixture is heated to 75° C. After stirring for 6.5 h, the mixture is stored in the freezer overnight. Heating is resumed for an additional 2.5 h, at which time THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over sodium sulfate and concentrated under reduced pressure to give a residue. The residue is heated to 120° C. in DMF (5 mL) with lithium bromide (0.2348 g, 0.0027 mol) and lithium carbonate (0.1813 g, 0.0025 mol). After 2 h, DMF is removed under high vacuum and the mixture is partitioned between dichloromethane and water. The combined organic layers are washed with water and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (100 mL) using dichloromethane/hexane (30/70 and 50/50) to give 0.1893 g (58%) of the title compound. An aliquot is precipitated from hexane/ ether; MS (ESI+) for C19H14FNO m/z 292.2 (M+H)+; IR (drift) 1483, 1466, 1451, 1337, 1304, 1174, 1157, 1138, 884, 859, 794, 777, 745, 713, 700 cm−1; 1H NMR (CDCl3) δ5.34, 5.47, 6.56, 6.95, 7.13, 7.20-7.30, 8.01. Anal. Calcd for C19H14FNO: C, 78.33; H, 4.84; N, 4.81. Found: C, 78.17; H, 4.83; N, 4.78.

reactant | Pyridinium bromide perbromide | 0.0014 mol, 0.4620 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-benzyl-6-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0011 mol, 0.3271 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(CCCC12)=O)F | C19H16FNO
reactant | lithium bromide | 0.0027 mol, 0.2348 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0025 mol, 0.1813 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-fluoro-9H-carbazol-4-ol | 0.1893 g, 58% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)O)F | C19H14FNO
